US07557103B2
Preparation of 8-(1-ethyl-propyl)-3-(8-methoxymethyl-2-methyl-imidazo[1,2-a]pyridin-3-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
A solution of {3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridin-8-yl}-methanol (0.23 g, 0.60 mmol) in THF (10 mL) is treated with 60% NaH (29 mg, 0.73 mmol) at 0° C., and the resulting mixture is stirred at 0° C. for 30 min. CH3I (56 μL, 0.91 mmol) is added and the reaction is stirred at 0° C. for 2 h, and at RT overnight. It is quenched with sat. NH4Cl (10 mL), diluted with H2O (20 mL), and extracted with EtOAc (2×20 ml). The combined organic layers are dried with Na2SO4, filtered and concentrated to give the title compound (0.22 g, 0.55 mmol, 91%). 1H NMR (CDCl3): δ 0.91 (t, J=7.3 Hz, 3H), 0.93 (t, J=7.3 Hz, 3H), 1.79-1.95 (m, 4H), 2.41 (s, 3H), 2.43 (s, 3H), 2.44 (s, 3H), 3.32-3.42 (m, 1H), 3.59 (s, 3H), 4.96 (d, J=13.6 Hz, 1H), 5.01 (d, J=13.6 Hz, 1H), 6.73 (s, 1H), 6.76 (t, J=6.7 Hz, 1H), 7.31 (d, J=6.6 Hz, 1H), 7.46 (d, J=6.6 Hz, 1H) ppm. ES-MS (m/z): calcd for C23H29N5O (M+H)+: 392.5. found: 392.3.

reactant | {3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridin-8-yl}-methanol | 0.60 mmol, 0.23 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2C=CC=C1CO)C | C22H27N5O
reactant | NaH | 0.73 mmol, 29 mg | [H-].[Na+]
reactant | CH3I | 0.91 mmol, 56 μL | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-(1-ethyl-propyl)-3-(8-methoxymethyl-2-methyl-imidazo[1,2-a]pyridin-3-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.55 mmol, 0.22 g, 91% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2C=CC=C1COC)C | C23H29N5O
